US09428515B2
2-(1,5-Dimethyl-6-oxo-1,6-dihydro-pyridin-3-yl)-3-((S)-2-methoxy-1-methyl-ethyl)-5,7,7-trimethyl-5,7-dihydro-3H-imidazo[4,5-f]indol-6-one I-1
1,5-Dimethyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid [6-((S)-2-methoxy-1-methyl-ethylamino)-1,3,3-trimethyl-2-oxo-2,3-dihydro-1H-indol-5-yl]-amide I-1′ (110 mg; 0.26 mmol) is dissolved in 2 ml acetic acid and stirred at 150° C. for 1 h. The solvent is evaporated and the crude product is purified using reversed phase chromatography (Method: prep. HPLC1).

reactant | 1,5-Dimethyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid [6-((S)-2-methoxy-1-methyl-ethylamino)-1,3,3-trimethyl-2-oxo-2,3-dihydro-1H-indol-5-yl]-amide | COC[C@H](C)NC1=C(C=C2C(C(N(C2=C1)C)=O)(C)C)NC(=O)C1=CN(C(C(=C1)C)=O)C | C23H30N4O4
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 2-(1,5-Dimethyl-6-oxo-1,6-dihydro-pyridin-3-yl)-3-((S)-2-methoxy-1-methyl-ethyl)-5,7,7-trimethyl-5,7-dihydro-3H-imidazo[4,5-f]indol-6-one | CN1C=C(C=C(C1=O)C)C=1N(C=2C(=CC=3C(C(N(C3C2)C)=O)(C)C)N1)[C@H](COC)C | C23H28N4O3
